US04348320
1-(t-butyldimethylsilyl)-4-(2-oxoethyl)-2-azetidinone (2.27 g, 0.01 mole) is dissolved in 50 ml ether and cooled to -20° C. under N2. A solution of CH3MgBr in ether (0.011 mole CH3MgBr) is added dropwise over 1/2 hours at -20° C. and the reaction mixture is stirred for another 1/2 hr at -20°, allowing to rise to 25° C. The reaction mixture is treated with a saturated solution of MgSO4 (2 ml) and allowed to stir for 15 min. The Mg salts are filtered off and washed with ether. The combined filtrate and washings are dried and evaporated. Chromatography of the residue on silica gel gives 1-(t-butyldimethylsilyl)-4-(2-hydroxypropyl)-2-azetidinone.

reactant | 1-(t-butyldimethylsilyl)-4-(2-oxoethyl)-2-azetidinone | 0.01 mole, 2.27 g | [Si](C)(C)(C(C)(C)C)N1C(CC1CC=O)=O | C11H21NO2Si
reactant | CH3MgBr | C[Mg+].[Br-]
reactant | MgSO4 | 2 ml | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 0.011 mole | CCOCC | C4H10O
product | 1-(t-butyldimethylsilyl)-4-(2-hydroxypropyl)-2-azetidinone | [Si](C)(C)(C(C)(C)C)N1C(CC1CC(C)O)=O | C12H25NO2Si
